US09359340B2
To a solution of tert-butyl 4-(7-hydroxy-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazine-1-carboxylate (0.37 g, 1.2 mmol) in DCM (20 mL) was added HCl in dioxane (4M, 5 mL). The mixture was stirred at room temperature overnight. The solvent was removed to afford the 4-(piperazin-1-yl)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-7-ol dihydrochloride (0.25 g, 98%). MS (APCI+) [M+H] +221.

reactant | tert-butyl 4-(7-hydroxy-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazine-1-carboxylate | 1.2 mmol, 0.37 g | OC1CCC2=C1N=CN=C2N2CCN(CC2)C(=O)OC(C)(C)C | C16H24N4O3
reactant | HCl | Cl | ClH
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | dioxane | 4M, 5 mL | O1CCOCC1 | C4H8O2
product | 4-(piperazin-1-yl)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-7-ol dihydrochloride | 0.25 g, 98% | Cl.Cl.N1(CCNCC1)C=1C2=C(N=CN1)C(CC2)O | InChI=1S/C11H16N4O.2ClH/c16-9-2-1-8-10(9)13-7-14-11(8)15-5-3-12-4-6-15;;/h7,9,12,16H,1-6H2;2*1H
